US06685995B1
Dried methoxymethyltriphenylphosphonium chloride in an amount of 210 g (613 mmol) was added in 1.5 l of THF and the solution was cooled down to −20° C., and 68.5 g (610 mmol) of potassium-t-butoxide was gradually added thereto at the same temperature. After it was warmed up to room temperature and stirred for 2 hours, 700 ml of 119 g (500 mmol) of bicyclohexanedione monoethylene ketal in THF was added dropwise thereto at the same temperature and the mixture was stirred for 5 hours. After 1 l of water was added to the reaction mixture, the product thus formed was extracted with ether, the extract was washed with water, and then the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: heptane/ethyl acetate =3/1), the solvent was distilled off. After the residue was refluxed in 200 ml of formic acid for 3 hours, 300 ml of water was added to the reaction solution, the product thus formed was extracted with toluene, the extract was washed with water, saturated aqueous sodium bicarbonate solution, and water in this turn, and then dried over magnesium sulfate. After the solvent was distilled off and the residue was purified by column chromatography (eluent: toluene/ethyl acetate=1/1), the solvent was distilled off to give 43.0 g (207 mmol) of 4-(4-oxocyclohexyl)-cyclohexanecarbaldehyde. Yield of this compound based on bicyclohexanedione monoethylene ketal was 41.4%.

reactant | methoxymethyltriphenylphosphonium chloride | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 610 mmol, 68.5 g | CC(C)([O-])C.[K+]
reactant | bicyclohexanedione monoethylene ketal | 500 mmol, 119 g | C1COC2(C(CCCC2=O)C2CCCCC2)O1 | C14H22O3
reactant | water | 1 l | O | H2O
solvent | THF | 1.5 l | C1CCOC1 | C4H8O
product | 4-(4-oxocyclohexyl)-cyclohexanecarbaldehyde | 207 mmol, 43.0 g | O=C1CCC(CC1)C1CCC(CC1)C=O | C13H20O2
